US07893056B2
A solution of (4S)-3-((2R)-3-cyclopentyl-2-{[(phenylmethyl)oxy]methyl}propanoyl)-4-(phenylmethyl)-1,3-oxazolidin-2-one (42.7 g, 0.1 mol) in ethanol (800 mL) and DMF (180 mL) was subjected to catalytic hydrogenation using 10% Pd/C (4 g) and a balloon of hydrogen. The reaction was 50% complete by LCMS after 24 h. The reaction was purged with nitrogen and a fresh balloon of hydrogen was introduced. After an additional 60 h, the reaction was again purged with nitrogen, was filtered, and the filtrate solvents were removed to provide (4S)-3-[(2R)-3-cyclopentyl-2-(hydroxymethyl)propanoyl]-4-(phenylmethyl)-1,3-oxazolidin-2-one (33.1 g, 100%). LCMS: (M+H)+: 332.3.

reactant | (4S)-3-((2R)-3-cyclopentyl-2-{[(phenylmethyl)oxy]methyl}propanoyl)-4-(phenylmethyl)-1,3-oxazolidin-2-one | 0.1 mol, 42.7 g | C1(CCCC1)C[C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)COCC1=CC=CC=C1 | C26H31NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 800 mL | C(C)O | C2H6O
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 4 g | [Pd] | Pd
product | (4S)-3-[(2R)-3-cyclopentyl-2-(hydroxymethyl)propanoyl]-4-(phenylmethyl)-1,3-oxazolidin-2-one | 33.1 g, 100% | C1(CCCC1)C[C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)CO | C19H25NO4
